US05948913
3-Chloromethyl-5,6-dimethoxy-1-(1-trityl-4-imidazolyl)methyl-1H-indazole
5,6-Dimethoxy-1-(1-trityl-4-imidazolyl)methyl-1H-indazole-3-methanol (180.0 g) was ground into a powder form using a mortar and suspended in dichloromethane (1,700 ml) at room temperature. After suspension, the reaction solution was stirred with cooling in an ice bath. To this was added dropwise 48.6 ml of thionyl chloride spending 5 minutes. It was observed 1 minute thereafter that the spot of the material almost disappeared on a thin layer chromatography (chloroform/ethanol=30/1). The reaction solution was poured into saturated sodium bicarbonate aqueous solution (2,000 ml) and extracted with chloroform (5,000 ml), and the extract was dried with sodium sulfate, filtered and then evaporated under a reduced pressure to obtain colorless solid (165.1 g). This solid substance was used in the subsequent reaction as such.

reactant | 5,6-Dimethoxy-1-(1-trityl-4-imidazolyl)methyl-1H-indazole-3-methanol | 180.0 g | COC=1C=C2C(=NN(C2=CC1OC)CC=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)CO | C33H30N4O3
reactant | thionyl chloride | 48.6 ml | S(=O)(Cl)Cl | Cl2OS
reactant | chloroform ethanol | C(Cl)(Cl)Cl.C(C)O
reactant | sodium bicarbonate | 2,000 ml | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 1,700 ml | ClCCl | CH2Cl2
product | 3-Chloromethyl-5,6-dimethoxy-1-(1-trityl-4-imidazolyl)methyl-1H-indazole | 165.1 g | ClCC1=NN(C2=CC(=C(C=C12)OC)OC)CC=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C33H29ClN4O2
